US06713474B2
A solution of diisopropylamine (1.40 g, 13.82 mmol) in tetrahydrofuran (60 mL) was added into a solution of 2.2 M n-BuLi (6.29 mL, 13.82 mmol) in tetrahydrofuran (20 mL) at −78° C. A solution of diethylphosphonoacetic acid (1.29 g, 6.59 mmol) in tetrahydrofuran (60 mL) was added at −78° C. under the atmosphere of nitrogen. The mixture was kept at −78° C. for 20 minutes and allowed to warm up to ambient temperature. The mixture was then transferred into a suspension of 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone (2.50 g, 6.28 mmol) in tetrahydrofuran (150 mL) at −78° C. quickly. The resulting mixture was allowed to warm up to ambient temperature overnight and the solvent was removed under reduced pressure. The residue was taken in water and adjusted PH to be 3-4 with 1M aqueous acetic acid followed by extraction with ethyl acetate three times. The combined organic extracts were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyliden}acetic acid (1.96 g, 4.44 mmol) as a white solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.98(br, 1H), 7.45(d, 2H), 7.41(s, 1H), 7.40(d, 2H), 7.16(t, 1H), 7.08(m, 4H), 6.10(br, 2H), 5.70(s, 1H), 4.80(m, 1H), 2.50-1.90(m, 8H); RP-HPLC (Hypersil C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05M ammonium acetate over 10 min, 1 mL/min) Rt 9.70 min. MS: MH+ 441.

reactant | diisopropylamine | 13.82 mmol, 1.40 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 13.82 mmol, 2.2 M, 6.29 mL | [Li]CCCC
reactant | diethylphosphonoacetic acid | 6.59 mmol, 1.29 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | 4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexanone | 6.28 mmol, 2.50 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=O | C24H22N4O2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-{4-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclohexyliden}acetic acid | 4.44 mmol, 1.96 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CCC(CC2)=CC(=O)O | C26H24N4O3
